US08471005B2
4-{4-[7-(3-tert-Butylsulfamoyl-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino]-phenyl}-piperidine-1-carboxylic acid tert-butyl ester was prepared from N-tert-butyl-3-(2-hydroxy-pyrrolo[2,1-f][1,2,4]triazin-7-yl)-benzenesulfonamide and 4-(4-amino-phenyl)-piperidine-1-carboxylic acid tert-butyl ester in an analogous manner to Example 1052a. Product isolated as an orange foam (82 mg, 47%). LCMS (m/e) 627 (M+Na); 1H-NMR (CDCl3, 400 MHz) δ 8.79 (s, 1H), 8.74 (s, 1H), 8.29 (d, 1H, J=8.1 Hz), 7.87 (d, 1H, J=7.9 Hz), 7.62-7.53 (m, 3H), 7.31-7.24 (m, 2H), 7.08 (d, 1H, J=4.8 Hz), 6.88-6.80 (m, 2H), 4.46 (s, 1H), 4.37-4.18 (m, 2H), 2.89-2.75 (m, 2H), 2.75-2.60 (m, 1H), 1.90-1.81 (m, 2H), 1.71-1.60 (m, 2H), 1.49 (s, 9H), 1.17 (s, 9H).

reactant | N-tert-butyl-3-(2-hydroxy-pyrrolo[2,1-f][1,2,4]triazin-7-yl)-benzenesulfonamide | C(C)(C)(C)NS(=O)(=O)C1=CC(=CC=C1)C1=CC=C2C=NC(=NN21)O | C16H18N4O3S
reactant | 4-(4-amino-phenyl)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=CC=C(C=C1)N | C16H24N2O2
product | 4-{4-[7-(3-tert-Butylsulfamoyl-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino]-phenyl}-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=CC=C(C=C1)NC1=NN2C(C=N1)=CC=C2C2=CC(=CC=C2)S(NC(C)(C)C)(=O)=O | C32H40N6O4S
